US04024134
2-Dichloroacetoxyimino-(4-chlorophenyl)acetic acid (syn-isomer)
To a solution of dichloroacetyl chloride (1.8 ml.) in methylene chloride (15 ml.) was added 2-hydroxyimino-(4-chlorophenyl)acetic acid (anti-isomer) (1.5 g.) and the suspension stirred for two hours at room temperature. During this time most of the material dissolved. The solid was removed, washed with petroleum (b.p. 40°-60°) and the washings and filtrate were combined, kept at 5° overnight and the resulting solid was collected and dried to give the title acid (2.0 g; 85%), m.p. 80°, λmax. (EtOH) 258 nm (ε 12,280), νmax. (Nujol) 1774 (ester), 1750 and 1722 cm.-1 (CO2H).

reactant | dichloroacetyl chloride | 1.8 ml | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | 2-hydroxyimino-(4-chlorophenyl)acetic acid | 1.5 g | ON=C(C(=O)O)C1=CC=C(C=C1)Cl | C8H6ClNO3
reactant | EtOH | CCO | C2H6O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-Dichloroacetoxyimino-(4-chlorophenyl)acetic acid | ClC(C(=O)ON=C(C(=O)O)C1=CC=C(C=C1)Cl)Cl | C10H6Cl3NO4
